US07125901B2
Step 1: N-{4-[2-(3-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (E-Z mixture)
To a solution of 1-(bromomethyl)-3-nitrobenzene (276 mg) in N,N-dimethylformamide (7 mL) was added triphenylphosphine (335 mg) at room temperature. After the mixed solution was stirred for 4 hours, potassium tert-butoxide (172 mg) and N-(4-formyl-1,3-thiazol-2-yl)acetamide (217 mg) were successively added to the solution at the same temperature. After the whole solution was stirred at room temperature for 5 hours, the mixture was poured into water, the pH of the aqueous layer was adjusted to 7 with 1N-hydrochloric acid. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (10 g) using a mixed solvent of n-hexane and ethyl acetate (4:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give brown powder of the title compound (E-Z mixture) (323 mg, 87.4%).

reactant | 1-(bromomethyl)-3-nitrobenzene | 276 mg | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | triphenylphosphine | 335 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium tert-butoxide | 172 mg | CC(C)([O-])C.[K+]
reactant | N-(4-formyl-1,3-thiazol-2-yl)acetamide | 217 mg | C(=O)C=1N=C(SC1)NC(C)=O | C6H6N2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{4-[2-(3-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 323 mg, 87.4% | [N+](=O)([O-])C=1C=C(C=CC1)C=CC=1N=C(SC1)NC(C)=O | C13H11N3O3S
